US07153815B2
Cyanoacetic acid (2.6 g, 0.030 mmol), 5-aminomethyl-2-chloropyridine (4.3 g, 0.030 mmol) and 1-[3-(dimethylamino) propyl]-3-ethylcarbodiimide hydrochloric acid salt (5.8 g, 0.030 mol) were added to dichloromethane (50 ml), and stirred overnight. Chloroform and 1N hydrochloric acid were added thereto, and crystals were separated out. The crystals were filtered off, dissolved in ethyl acetate, and water was added thereto and subjected to extraction. The organic phase was washed with a saturated sodium bicarbonate and a saturated brine, and then dried anhydrous sodium sulfate. The residue obtained by filtrating and concentrating was washed with hexane and a little amount of ethyl acetate to obtain N-(6-chloro-3-pyridylmethyl)-2-cyanoacetic acid amide (6.1 g, 0.029 mmol, 97%).

reactant | Cyanoacetic acid | 0.030 mmol, 2.6 g | C(#N)CC(=O)O | C3H3NO2
reactant | 5-aminomethyl-2-chloropyridine | 0.030 mmol, 4.3 g | NCC=1C=CC(=NC1)Cl | C6H7ClN2
reactant | 1-[3-(dimethylamino) propyl]-3-ethylcarbodiimide hydrochloric acid salt | 0.030 mol, 5.8 g | Cl.CN(CCCN=C=NCC)C
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(6-chloro-3-pyridylmethyl)-2-cyanoacetic acid amide | 0.029 mmol, 6.1 g, 97% | ClC1=CC=C(C=N1)CNC(CC#N)=O | C9H8ClN3O
